US05597881
1.5 g of the solid prepared under aa) (106 mmol of Al) were suspended in 100 cm3 of toluene in a stirrable vessel and cooled to -30° C. At the same time, 155 mg (0.246 mmol) of rac-dimethyl-silanediylbis(2-methyl-4-phenylindenyl)zirconium dichloride were dissolved in 75 cm3 of toluene and added dropwise to the suspension in the course of 30 minutes. The mixture was warmed slowly to room temperature with stirring, during which time the suspension took on a red color. The mixture was subsequently stirred at 80° C. for 1 hour, cooled to room temperature and filtered, and the solid washed 3× with 100 cm3 of toluene in each case and once with 100 cm3 of hexane. The hexane-moist filter residue which remained was dried in vacuo, giving 12.9 g of free-flowing, pale red, supported catalyst. Analysis gave a content of 10.1 mg of zirconocene per gram of catalyst.

reactant | rac-dimethyl-silanediylbis(2-methyl-4-phenylindenyl)zirconium dichloride | 0.246 mmol, 155 mg | [Cl-].[Cl-].C[Zr](C1C(=CC2=C(C=CC=C12)C1=CC=CC=C1)C)(C1C(=CC2=C(C=CC=C12)C1=CC=CC=C1)C)(=[SiH2])C
solvent | toluene | 100 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 75 cm3 | C1(=CC=CC=C1)C | C7H8
product | zirconocene | 10.1 mg | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2] | InChI=1S/2C5H5.Zr/c2*1-2-4-5-3-1;/h2*1-5H;/q2*-1;+2
